data/polar.json
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:4]1([Cl:16])=[C:5]([Cl:17])[C:9](=[O:11])[C:13]([C:19]#[N:22])=[C:14]([C:20]#[N:23])[C:8]1=[O:10].[cH:1]1[cH:3][c:6]2[c:21]([cH:12][cH:24]1)[CH:18]=[CH:2][CH:15]2[Li:7]>>[Li+:7].[cH:1]1[cH:3][c:6]2[c:21]([cH:12][cH:24]1)[CH:18]=[CH:2][CH:15]2[C:13]1([C:19]#[N:22])[C:9](=[O:11])[C:5]([Cl:17])=[C:4]([Cl:16])[C:8]([O-:10])=[C:14]1[C:20]#[N:23]", "epd": [["Sigma-/Sigma+", [15, 7], [15, 13]], ["Pi-/Pi+", [13, 14], [14, 8]], ["Pi-/LP+", [8, 10], [10]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[C:6]1([O:18][Si:11]([CH3:19])([CH3:20])[CH3:21])=[C:17]([CH3:15])[CH2:13][CH2:10][O:16]1.[O:1]=[S:5](=[O:2])([N:12]=[C:9]=[O:14])[c:23]1[cH:7][cH:3][c:22]([CH3:24])[cH:4][cH:8]1>>[O:1]=[S:5](=[O:2])([N-:12][C:9](=[O:14])[C:17]1([CH3:15])[C:6](=[O+:18][Si:11]([CH3:19])([CH3:20])[CH3:21])[O:16][CH2:10][CH2:13]1)[c:23]1[cH:7][cH:3][c:22]([CH3:24])[cH:4][cH:8]1", "epd": [["LP-/Pi+", [18], [6, 18]], ["Pi-/Sigma+", [17, 6], [17, 9]], ["Pi-/LP+", [9, 12], [12]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[O-:1][C:25](=[CH:2][c:11]1[cH:17][cH:7][cH:33][cH:8][cH:18]1)[O:32][CH2:34][CH3:12].[cH:3]1[cH:13][cH:19][cH:16][cH:6][c:26]1[P:10](=[O:21])([c:27]1[cH:4][cH:14][cH:20][cH:15][cH:5]1)[N:28]=[CH:9][c:22]1[cH:30][cH:23][cH:29][cH:24][cH:31]1>>[O:1]=[C:25]([CH:2]([CH:9]([c:22]1[cH:30][cH:23][cH:29][cH:24][cH:31]1)[N:28]=[P:10]([O-:21])([c:26]1[cH:3][cH:13][cH:19][cH:16][cH:6]1)[c:27]1[cH:4][cH:14][cH:20][cH:15][cH:5]1)[c:11]1[cH:17][cH:7][cH:33][cH:8][cH:18]1)[O:32][CH2:34][CH3:12]", "epd": [["LP-/Pi+", [1], [25, 1]], ["Pi-/Sigma+", [2, 25], [2, 9]], ["Pi-/Pi+", [9, 28], [28, 10]], ["Pi-/LP+", [10, 21], [21]]]}
{"reaction_name": "Jones oxidation", "rsmi": "[O:1]([C:2]([CH3:4])([CH3:5])[H:7])[H:6].[O:3]=[Cr:23](=[O:24])=[O:25].[O:27]=[Cr:26](=[O:28])=[O:29].[O:11]([C:12]([CH3:13])([CH3:14])[H:16])[H:15].[O:17]([C:18]([CH3:19])([CH3:20])[H:22])[H:21]>>[O:1]=[C:2]([CH3:4])[CH3:5].[O:3]([H:6])[H:7].[O:11]=[C:12]([CH3:13])[CH3:14].[O:24]([H:15])[H:16].[O:17]=[C:18]([CH3:19])[CH3:20].[O:27]([H:21])[H:22].[O:25]=[Cr:23][O:29][Cr:26]=[O:28]", "epd": [["Pi-/LP+", [23, 3], [3]], ["Sigma-/LP+", [23, 3], [23]], ["Pi-/LP+", [23, 24], [24]], ["Sigma-/LP+", [23, 24], [23]], ["Pi-/LP+", [26, 27], [27]], ["Sigma-/LP+", [26, 27], [26]], ["Pi-/Sigma+", [26, 29], [23, 29]], ["LP-/Sigma+", [3], [3, 6]], ["Sigma-/LP+", [1, 6], [1]], ["LP-/Pi+", [1], [1, 2]], ["Sigma-/Sigma+", [2, 7], [3, 7]], ["LP-/Sigma+", [24], [24, 15]], ["Sigma-/LP+", [11, 15], [11]], ["LP-/Pi+", [11], [11, 12]], ["Sigma-/Sigma+", [12, 16], [24, 16]], ["LP-/Sigma+", [27], [27, 21]], ["Sigma-/LP+", [17, 21], [17]], ["LP-/Pi+", [17], [17, 18]], ["Sigma-/Sigma+", [18, 22], [27, 22]]], "epd_representation": {"mode": "closed_shell_surrogate", "arrow_model": "two_electron_only", "chemical_product_fragment": "[O:25]=[Cr:23][O:29][Cr:26]=[O:28]", "lwg_product_fragment": "[O:25]=[Cr-:23][O:29][Cr+:26]=[O:28]", "chemical_oxidation_states": {"23": 3, "26": 3}, "lwg_formal_charge_overrides": {"23": -1, "26": 1}, "symmetry_equivalent_charge_overrides": {"23": 1, "26": -1}, "unrepresented_electron_step": {"electron_count": 1, "source_atom": 23, "target_atom": 26, "description": "Single-electron equilibration of the pair-localized Cr(II)/Cr(IV) surrogate to two Cr(III) centers."}, "limitation": "The Cr(III) d3 centers require unpaired-electron bookkeeping, which is unsupported by the current LP/Sigma/Pi two-electron EPD model."}}
{"reaction_name": "Michael addition", "rsmi": "[N:1]1([c:9]2[c:31]([CH3:12])[cH:26][c:19]([CH3:16])[cH:29][c:34]2[CH3:15])[CH:25]=[CH:24][N:2]([c:10]2[c:32]([CH3:13])[cH:27][c:20]([CH3:17])[cH:28][c:33]2[CH3:14])[C:35]1=[CH2:21].[O:3]=[N+:37]([O-:8])[c:23]1[cH:4][cH:6][c:11]([CH:30]=[CH:18][N+:22]([O-:36])=[O:38])[cH:7][cH:5]1>>[n+:1]1(-[c:9]2[c:31]([CH3:12])[cH:26][c:19]([CH3:16])[cH:29][c:34]2[CH3:15])[cH:25][cH:24][n:2](-[c:10]2[c:32]([CH3:13])[cH:27][c:20]([CH3:17])[cH:28][c:33]2[CH3:14])[c:35]1[CH2:21][CH:30]([c:11]1[cH:6][cH:4][c:23]([N+:37](=[O:3])[O-:8])[cH:5][cH:7]1)[CH:18]=[N+:22]([O-:36])[O-:38]", "epd": [["LP-/Pi+", [1], [35, 1]], ["Pi-/Sigma+", [21, 35], [21, 30]], ["Pi-/Pi+", [30, 18], [18, 22]], ["Pi-/LP+", [22, 38], [38]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1=[CH:5][c:6]2[cH:14][cH:13][cH:24][cH:9][c:18]2[CH:25]1[Na:20].[n:2]1[n:3][c:22]2[n:8]([cH:11][c:21]([N+:7](=[O:4])[O-:17])[cH:16][c:12]2[N+:15](=[O:10])[O-:23])[n:19]1>>[CH:1]1=[CH:5][c:6]2[cH:14][cH:13][cH:24][cH:9][c:18]2[CH:25]1[CH:11]1[n:8]2[n:19][n:2][n:3][c:22]2[C:12]([N+:15](=[O:10])[O-:23])=[CH:16][C:21]1=[N+:7]([O-:4])[O-:17].[Na+:20]", "epd": [["Sigma-/Sigma+", [25, 20], [25, 11]], ["Pi-/Pi+", [11, 21], [21, 7]], ["Pi-/LP+", [7, 4], [4]]]}
